US05597820
To a solution of 7-methoxycarbonyl-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (prepared in Preparation 1) (4.0 g) in dimethylformamide (80 ml) were added 60% sodium hydride (in oil) (0.73 g) and cyclopentyl bromide (2.5 g) and the mixture was stirred at 70° C. for a day. Water was added to the reaction solution and extraction with ethyl acetate was conducted. The solvent was distilled off under reduced pressure and the resulting residue was subjected to purification by column chromatography using chloroform to give 4-cyclopentyl-7-methoxycarbonyl-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (2.5 g) as an oil.

reactant | 7-methoxycarbonyl-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 4.0 g | COC(=O)C1=CC2=C(NC(C(O2)C)=O)C=C1 | C11H11NO4
reactant | sodium hydride | 0.73 g | [H-].[Na+]
reactant | cyclopentyl bromide | 2.5 g | C1(CCCC1)Br | C5H9Br
reactant | Water | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-cyclopentyl-7-methoxycarbonyl-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 2.5 g | C1(CCCC1)N1C(C(OC2=C1C=CC(=C2)C(=O)OC)C)=O | C16H19NO4
